US07994176B2
4′-{3-[4-(tert-Butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3′,5′-dichloro-biphenyl-4-carboxylic acid
Treat a solution of 4′-{3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3′,5′-dichloro-biphenyl-4-carboxylic acid methyl ester (0.56 g) in THF (5 mL ) and methanol (1 mL) with 2N LiOH (5 mL) and stir at 50° C. for 2 hours. Cool the reaction, dilute with ethyl acetate (25 mL), and wash with 1 N HCl (10 mL). Dry the organic layer (Na2SO4) and remove the solvent in vacuo to afford 0.55 g (99%) of the title compound. MS (m/z): 700 (M+).

reactant | 4′-{3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3′,5′-dichloro-biphenyl-4-carboxylic acid methyl ester | 0.56 g | COC(=O)C1=CC=C(C=C1)C1=CC(=C(C(=C1)Cl)CN1C(C(CC1)C1CCC(CC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)Cl | C41H45Cl2NO4Si
reactant | LiOH | 2N, 5 mL | [Li+].[OH-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 4′-{3-[4-(tert-Butyl-diphenyl-silanyloxy)-cyclohexyl]-2-oxo-pyrrolidin-1-ylmethyl}-3′,5′-dichloro-biphenyl-4-carboxylic acid | 0.55 g, 99% | C(C)(C)(C)[Si](OC1CCC(CC1)C1C(N(CC1)CC1=C(C=C(C=C1Cl)C1=CC=C(C=C1)C(=O)O)Cl)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H43Cl2NO4Si
